US07411072B2
4-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol
Following procedures essentially as described in Example 219, below, and using (4-hydroxyphenyl)boronic acid (55 mg, 0.40 mmol) and 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (103 mg, 0.32 mmol) provides the title compound. Mass Spec (EI+) 332.

reactant | (4-hydroxyphenyl)boronic acid | 0.40 mmol, 55 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.32 mmol, 103 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C16H12BrCl
product | 4-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC3=CC=C(C=C3)O)C=C1 | C22H17ClO
